US05360814
DL-4,6-Dichlorotryptophan
Dissolve ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate (1.10g, 3.65mmol ) in acetic acid (200mL) and add activated zinc dust (1.25g, 19.2mmol). Stir at room temperature for 72 hours. Evaporate the acetic acid in vacuo to give a white oil. Take the white oil up in ethyl acetate (200mL) and treat with saturated sodium hydrogen carbonate (500mL). Filter t he resulting white precipitate and separate the organic phase. Wash with saturated sodium hydrogen carbonate (100mL) a nd brine (100mL). Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as an amber oil (1.02g, 98%).

reactant | ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate | 3.65mmol, 1.10g | ON=C(C(=O)OCC)CC1=CNC2=CC(=CC(=C12)Cl)Cl | C13H12Cl2N2O3
reactant | sodium hydrogen carbonate | 500mL | C(O)([O-])=O.[Na+]
solvent | acetic acid | 200mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 19.2mmol, 1.25g | [Zn] | Zn
product | 4,6-Dichlorotryptophan | 1.02g, 98% | ClC=1C=C(C=C2NC=C(C[C@H](N)C(=O)O)C12)Cl | C11H10Cl2N2O2
